Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left lower extremity pain 
 
Major Surgical or Invasive Procedure:
Left femoral-peroneal bypass with cryo vein

 
History of Present Illness:
___ w/ESRD on HD ___, DM2, CAD, afib with CVA on apixaban, PVD 
s/p R BKA and multiple b/l ___ vascular procedures presenting for 
preadmission for left fem-peroneal bypass with cryo vein. 
Patient was recently admitted ___ for LLE angio on 
___ and R BKA revision on ___. LLE angio showed a short 
segment of distal SFA stenosis of less than 1 cm, the below knee 
popliteal to ___ bypass graft was completely occluded with only 
the hood of the bypass graft visible.  There was also a short 
segment occlusion of the below-knee popliteal segment of about 1 
cm in length, right above the anterior tibial takeoff.  The 
anterior tibial takeoff was visualized but then occludes soon 
after its takeoff.  There is a patent tibioperoneal trunk with 
an occluded posterior tibial artery.  The only runoff to the 
foot is the peroneal artery which also has a short 15 mm segment 
of occlusion proximally, but then reconstitutes as a
patent peroneal that provides runoff to the foot and supplies 
the dorsalis pedis as well as the hindfoot. No endovascular 
intervention was attempted at this time, with plans for bypass 
in the near future. BKA revision was done for a small dime-sized 
ulceration on the distal aspect of his right BKA site. He
endorses LLE rest pain and has had left ___ and ___ toe 
nonhealing ulcers/gangrene for several months. He was discharged 
on Bactrim and completed the course 2 days ago.
 
Past Medical History:
PMHx: NSTEMI/CAD (s/p 5vCABG ___, afib, ischemic 
cardiomyopathy (EF 15% ___ Cardiologist), PAD, 
DM2, chronic pain syndrome, nocturia, peripheral neuropathy, 
lumbago, CKD on HD (___), cardioembolic stroke (L 
hemiplegia, ___ Neurology), L atrial appendage clot on 
coumadin depression, ventricular tachycardia, rhabdomyolysis

PSHx: ___: LLE angiogram, L BK ___ bypass w/ NRSVG 
(Cambpell), R BKA ___, ___, R pop-DP bypass, ___ 
toe amputation ___ (___, Vascular 
surgeon Dr ___, RLE hematoma evacuation ___ 
(___), bypass graft explantation, tonsillectomy, 
Debridement ankle infection ___ Revision right ankle ligament 
reconstruction with Achilles tendon allograft ___, 5V CABG 
___.
 
Social History:
___
Family History:
CAD, DM, stroke 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.4 134 / 70 Lying 61 16 100 RA    
PE: R BKA stump with quarter-sized nonhealing ulcer, no 
erythema,
small amount of bloody drainage on dressing; left ___ and ___ 
toe
with dry gangrene, as well as the tip of left first toe. 
R:p/d/-/-; L: p/d/d/d; L foot cellulitis

DISCHARGE PHYSICAL EXAM:
VS 97.8 127/67 60 18 100 
Neuro: oriented x 3, NAD
CV: irregular rhythm, no murmurs, HD line in place at upper 
right chest wall 
Lungs: CTAB, breathing comfortably on room air 
Abdomen: soft, nontender, +BS
Back: small rash in sacral region. skin intact but erythematous  
 
Ext: R BKA stump with quarter-sized nonhealing ulcer, no 
erythema or drainage. L lower extremity with staples extending 
from medial thigh to below knee. dry gangrene involving ___ and 
___ toes primarily  
Pulses: R p/d/-/-; L: p/d/d/d 
 
Pertinent Results:
ADMISSION
___ 04:22AM BLOOD WBC-5.1 RBC-3.84* Hgb-11.1* Hct-36.3* 
MCV-95 MCH-28.9 MCHC-30.6* RDW-15.1 RDWSD-51.9* Plt Ct-77*
___ 04:22AM BLOOD Glucose-130* UreaN-43* Creat-3.0* Na-143 
K-5.2* Cl-102 HCO3-25 AnGap-16
___ 06:13PM BLOOD Calcium-8.5 Phos-3.5 Mg-1.9

DISCHARGE
___ 06:15AM BLOOD WBC-5.5 RBC-2.96* Hgb-8.5* Hct-28.3* 
MCV-96 MCH-28.7 MCHC-30.0* RDW-15.1 RDWSD-52.7* Plt ___
___ 06:15AM BLOOD Glucose-133* UreaN-40* Creat-3.0* Na-141 
K-4.2 Cl-101 HCO3-25 AnGap-15
___ 06:15AM BLOOD Calcium-8.5 Phos-4.7* Mg-2.2

 
Brief Hospital Course:
Mr ___ is a ___ w/ESRD on HD ___, DM2, CAD, afib with CVA 
on apixaban, PVD s/p R BKA and multiple b/l ___ vascular 
procedures admitted for a planned left fem-peroneal bypass with 
cryo vein. The patient underwent uncomplicated LLE bypass on 
___ with dopplerable L DP and ___ pulses at discharge 

___ Left femoral-peroneal bypass with cryo vein; HD
___ discontinued foley; HD 
___ urinary retention(normally urinates twice a day), 
started on tamsulosin 
___ foley placed, restarted apixaban and aspirin, started 
nephrocaps, HD  
___ d/c foley and passed void trial 
___ cleared by ___ for home 
___ HD and discharged home 

ACUTE ISSUES
============
#LLE PVD with dry gangrene: Presented with LLE rest pain and 
left ___ and ___ toe nonhealing ulcers/gangrene for several 
months. On last admission patient was discharged on course of 
Bactrim for LLE cellulitis (since completed). Angio ___ 
noted a short segment of distal SFA stenosis of less than 1 cm, 
and occluded below knee popliteal to ___ bypass graft. The only 
runoff to the foot was the peroneal artery which also had a 
short 15 mm segment of occlusion proximally. Patient underwent 
uncomplicated femoral-peroneal bypass on ___ with 
dopplerable DP and ___ pulses in the LLE. Patient with L ___ and 
___ toe dry gangrene, as well as some involvement at tip of left 
first toe. Patient was managed inpatient on IV vanc/cipro/flagyl 
and was discharged on 2 weeks of oral minocycline. 

#Right BKA: discharged recently ___ following right BKA 
revision for small dime-sized ulceration on the distal aspect of 
his right BKA site. Ulcer appears unchanged with no erythema 
around site or active drainage. 

TRANSITIONAL ISSUES
===================
[]discharged on 2 weeks minocycline for LLE gangrene. now s/p 
LLE revascularization. will reassess at follow up 
[]should have LLE staples removed at follow up with Dr ___ 
on ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Apixaban 2.5 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Gabapentin 300 mg PO BID 
5. Acetaminophen 1000 mg PO TID:PRN Pain - Mild 
6. OxyCODONE SR (OxyconTIN) 20 mg PO DAILY 
7. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
8. Furosemide 80 mg PO DAILY 
9. glimepiride 1 mg oral DAILY 
10. Sertraline 150 mg PO DAILY 
11. Metoprolol Tartrate 25 mg PO BID 

 
Discharge Medications:
1.  Minocycline 100 mg PO Q12H 
RX *minocycline 100 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0 
2.  Nephrocaps 1 CAP PO DAILY 
RX *B complex with C#20-folic acid [Renal Caps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*0 
3.  Tamsulosin 0.4 mg PO DAILY 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
4.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
5.  Gabapentin 300 mg PO DAILY 
can take an additional dose after dialysis   
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg ___ tablet(s) by mouth every 4 hours as 
needed for pain Disp #*30 Tablet Refills:*0 
7.  Apixaban 2.5 mg PO BID  
8.  Aspirin 81 mg PO DAILY  
9.  Atorvastatin 80 mg PO QPM  
10.  Furosemide 80 mg PO DAILY  
11.  glimepiride 1 mg oral DAILY  
12.  Metoprolol Tartrate 25 mg PO BID  
13.  OxyCODONE SR (OxyconTIN) 20 mg PO DAILY 
RX *oxycodone [OxyContin] 20 mg 1 tablet(s) by mouth in the 
morning as needed for pain Disp #*30 Tablet Refills:*0 
14.  Sertraline 150 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
LLE dry gangrene of ___ and ___ toes, s/p LLE revascularization 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted with pain in your left leg and ulcers/gangrene 
on your L toes. On ___ you underwent a successful bypass 
procedure to help improve blood flow in your left leg. We noted 
good pulses in your foot after the procedure. You were continued 
on IV antibiotics while you were admitted and were discharged on 
2 weeks of another antibiotic called minocycline. You should 
take 100mg of this two times a day for 2 weeks. Following the 
procedure you also had some trouble urinating. You were started 
on a medicine called tamsulosin that you should continue to take 
daily. Please continue your other home medications and resume 
your normal hemodialysis schedule. 

We have arranged for you to follow up with Dr. ___ at 
___ on ___ at 11am. 

WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
• You should get up out of bed every day and gradually increase 
your activity each day 
• Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
• Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
• Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
• You will probably lose your taste for food and lose some 
weight 
• Eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
• Take aspirin as instructed 
• Follow your discharge medication instructions

ACTIVITIES:
• No driving until post-op visit and you are no longer taking 
pain medications
• Unless you were told not to bear any weight on operative foot: 

• You should get up every day, get dressed and walk
• You should gradually increase your activity
• You may up and down stairs, go outside and/or ride in a car
• Increase your activities as you can tolerate- do not do too 
much right away!
• No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
• You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE FOR: ___
• Redness that extends away from your incision
• A sudden increase in pain that is not controlled with pain 
medication
• A sudden change in the ability to move or use your leg or the 
ability to feel your leg
• Temperature greater than 100.5F for 24 hours
• Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

It was a pleasure taking care of you, 
Your ___ Vascular Team 

 
Followup Instructions:
___